* Two diode+RC stages
* Fixture for testing reset() DC-chaining between sub-circuits.

Vin vi 0 PULSE(-1 1 0 20m 1u 1u 20m)
Vbias vbias 0 DC 5

* stage1: diode-shifted RC lowpass off a 5V rail
R1 vi va 1k
R2 vbias va 1k
D1 va vo1_int D1N914
C1 vo1_int 0 100n
R3 vo1_int 0 10k
* unity-gain buffer
Ebuf vo1 0 vo1_int vo1 1e6

* stage2: same topology, fed from the buffered output
R1x vo1 vax 1k
D1x vax vo2 D1N914
C1x vo2 0 100n
R3x vo2 0 10k

.model D1N914 D (IS=2.52E-9 N=1.752)

* output: vo2
* sub-circuit: stage1 vi vo1
* sub-circuit: stage2 vo1 vo2

.tran 0 80m 0 20.0u
Escale1 vo_scaled 0 value = {V(vo2)*0.1} ; netlist_skip
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
